US08404672B2
To a degassed solution of 2-bromopyridine (0.604 mL, 6.33 mmol), bis(triphenylphosphine)palladium(II) chloride (0.267 g, 0.380 mmol), copper (I) iodide (0.060 g, 0.316 mmol), and diisopropyldiethylamine (3.61 mL, 25.3 mmol) in N,N-dimethylformamide (20 mL) was added 3-methylbut-1-yne (0.647 g, 9.49 mmol). The reaction mixture was heated to 85° C. for 16 h, cooled to room temperature, and diluted with ethyl acetate (150 mL). The mixture was washed with a 10% aqueous solution of lithium chloride (2×100 mL), washed with a 2M aqueous solution of ammonium hydroxide (100 mL), washed with brine, and dried over anhydrous sodium sulfate. Concentration followed by purification by silica gel chromatography with hexanes/ethyl acetate (3/2) afforded (3-methylbut-1-ynyl)pyridine (696 mg, 4.65 mmol, 73% yield). The compound had an HPLC retention time=1.02 min.—Column: YMC COMBISCREEN® ODS-A 4.6×50 mm S-5; Gradient time: 4 min; Flow rate=4 ml/min; Solvent A=10% MeOH—90% Water—0.1% TFA; Solvent B=90% MeOH—10% water—0.1% TFA. LC-MS: M+1=146.32. 1H NMR (400 MHz, CDCl3) δ ppm 1.29 (s, 3H), 1.30 (s, 3H), 2.82 (dt, J=13.80, 6.90 Hz, 1H), 7.18 (dd, J=7.65, 4.89 Hz, 1H), 7.37 (d, J=7.78 Hz, 1H), 7.61 (td, J=7.72, 1.13 Hz, 1H), and 8.55 (d, J=4.77 Hz, 1H).

reactant | 2-bromopyridine | 6.33 mmol, 0.604 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | diisopropyldiethylamine | 25.3 mmol, 3.61 mL | C(C)(C)C(C)(NCC)C(C)C | C10H23N
reactant | 3-methylbut-1-yne | 9.49 mmol, 0.647 g | CC(C#C)C | C5H8
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.380 mmol, 0.267 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.316 mmol, 0.060 g | [Cu]I
product | (3-methylbut-1-ynyl)pyridine | 4.65 mmol, 696 mg, 73% yield | CC(C#CC1=NC=CC=C1)C | C10H11N
